US07371751B2
2-(4-(Trifluoromethoxy)phenylamino)-thiazole-4-carboxylic acid
A mixture of 12.9 g (54.6 mmol) [4-(trifluoromethoxy)phenyl]-thiourea, and 9.3 g (55.7 mmol) bromopyruvic acid in 70 ml ethanol was heated to 60° C. for 1 h. The precipitate was filtered off and washed with small portions of cold ethanol to yield after drying 8.9 g (53%) of the title compound as crystalline solid.

reactant | [4-(trifluoromethoxy)phenyl]-thiourea | 54.6 mmol, 12.9 g | FC(OC1=CC=C(C=C1)NC(=S)N)(F)F | C8H7F3N2OS
reactant | bromopyruvic acid | 55.7 mmol, 9.3 g | BrCC(C(=O)O)=O | C3H3BrO3
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-(4-(Trifluoromethoxy)phenylamino)-thiazole-4-carboxylic acid | FC(OC1=CC=C(C=C1)NC=1SC=C(N1)C(=O)O)(F)F | C11H7F3N2O3S
